US07435837B2
(±)-{[5-fluoro-7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.075 g, 52%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[5-fluoro-7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.19 g, 0.44 mmol) and methylamine (0.136 g, 4.40 mmol). mp 141-143.

reactant | (±)-[5-fluoro-7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.44 mmol, 0.19 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2)Cl)F | C22H18ClFO4S
reactant | methylamine | 4.40 mmol, 0.136 g | CN | CH5N
product | (±)-{[5-fluoro-7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | FC=1C=C(C2=C(CC(O2)CNC)C1)C1=C(C=CC=C1)Cl | C16H15ClFNO
